Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
___: ___ permanent pacemaker implantation

 
History of Present Illness:
___ year old otherwise healthy man presents with episodes of
presyncope. 

In brief, pt was in his usual state of health until ___. He
was on his daily run and he began to feel light headed about 2
miles in. He stopped, everything went black, and he passed out.
He went to his primary care doctor that day. Vitals, spot ECG 
and
labs were reportedly unremarkable, and he left with a 24hr 
holter
monitor. The initial report from the holter monitor was that
there were no abnormalities. 

Thus, Mr. ___ continued to go on his runs, but he was finding
that after about ___ a mile in he would become light headed and
feel like his heart was racing, causing him to stop and rest. He
also reports increasing fatigue and breathlessness early on in
his runs; this is unusual for him since he is a long distance
runner. He also describes a sensation of "heavy limbs". This
continued to happen, prompting him to return to his PCP this 
past
___, ___. At that time, he was found to be orthostatic.
Furthermore, an addendum was written on the report from the
holter monitor which noted intermittent bradycardia to the ___
with a widened QRS suggestive of a possible intermittent
intraventricular conduction defect or bundle branch block. His
PCP scheduled him for a stress test/myocardial perfusion scan on
___, however, due to concern for a new LBBB, this did not 
happen.
Finally, over the last 48 hours, the patient's symptoms (ie 
light
headed, palpitations) started to occur at rest and so he decided
to go to the ED at ___. 

At ___: 
- VS: AF, HR ___, BPs ___, 100% RA, weight 72 kg
- Normal CBC, chemistry, LFTs and TSH
- Troponin negative x1
- UA: SG 1.003, pH 8.0, otherwise normal
- CXR: normal

In the ED:
Initial VS: AF HR 57 BP 151/82 RR 18 O2 97% RA
Exam: early systolic ejection murmur, otherwise normal exam
EKG: sinus bradycardia with new ___
Labs notable for: troponin < 0.01 
Studies notable for: NA
Consults: EP - recommended discussion with ___ cardiology and
if admitted, pt should have telemetry and EP consult
Patient was given: nothing
Vitals on transfer: AF HR 57 BP 132/74 RR 14 O2 96% RA 

On the floor, pt endorses the above history. On review of
systems, he reports new right ear ringing that is constant over
the last few months. He denies hearing loss. He also had a 
fairly
severe headache this weekend which felt different and more 
severe
(like a migraine) than his usual headches. Finally, he had been
having somewhat worsening symptoms of lower back pain, but this
seems to have resolved. Otherwise denies fever, chills, changes
in weight, rash or ticks (though + tick exposure), visual
changes, chest pain, N/V/D/C.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes: no (HbA1c 5.3 on ___
- Hypertension: no known history
- Dyslipidemia: normal lipid panel ___
2. CARDIAC HISTORY  
- CAD: no history of coronary disease
- Pump: unknown  
- Rhythm: sinus bradycardia with new LBBB
3. OTHER PAST MEDICAL HISTORY  
- Seasonal allergies
- HSV 1 (genital)
 
Social History:
___
Family History:
- Father with atrial fibrillation, lung cancer, depression
- Maternal first cousin died of sudden cardiac death (unclear
cause) under the age of ___ 
- Paternal uncle: lung cancer
- ___ aunt: lung cancer
- Sister: depression, schizophrenia
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: 24 HR Data (last updated ___ @ 2309)
    Temp: 98.0 (Tm 98.0), BP: 119/78, HR: 55, RR: 20, O2 sat:
98%, O2 delivery: RA, Wt: 160.93 lb/73.0 kg   
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL. EOMI with no nystagmus
NECK: no JVD
NEURO: CN ___ in tact, no cerebellar signs, strength is normal
and equal along bilateral upper and lower extremities 
CARDIAC: Bradycardic, nl S1 S2, soft systolic murmur along the
left sternal border
LUNGS: CTAB 
ABDOMEN: Soft, ___. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused with protuberant lower 
extremity
veins L > R. No clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 1531)
    Temp: 98.1 (Tm 98.4), BP: 122/78 (___), HR: 59 
(___), RR: 16 (___), O2 sat: 100% (___), O2 delivery: RA  

GENERAL: Well developed, well nourished male in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Sclera anicteric. PERRL. EOMI with no nystagmus
NECK: no JVD
NEURO: CN ___ intact, no cerebellar signs, strength is normal 
and equal along bilateral upper and lower extremities 
CARDIAC: Bradycardic, nl S1 S2, no murmurs rubs or gallops
LUNGS: CTAB 
ABDOMEN: Soft, ___. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused with protuberant lower 
extremity veins. No clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:38AM BLOOD ___ 
___ Plt ___
___ 07:38AM BLOOD ___ ___
___ 07:38AM BLOOD Parst ___ FOR INTRACELLULAR AND 
EXTRACELLULAR PARASITES
___ 07:38AM BLOOD ___ 
___
___ 07:38AM BLOOD ___
___ 07:38AM BLOOD ___
___ 07:38AM BLOOD Lyme ___

DISCHARGE LABS
==============
___ 07:47AM BLOOD ___ 
___ Plt ___
___ 07:47AM BLOOD Plt ___
___ 07:47AM BLOOD ___ ___
___ 07:47AM BLOOD ___ 07:47AM BLOOD ___ 
___
___ 07:47AM BLOOD ___

REPORTS / IMAGING
================
TTE ___:  1) No structural cardiac cause of syncope 
identified. 2) Isolated left atrial
enlargement without echocardiographic evidence of left 
ventricular myocardial/valvular heart disease.

TTE ___: Test terminated secondary to progressively 
worsening,
symptomatic Mobitz II heart block. No anginal symptoms with ST 
segments
that are uninterpretable in the presence of LBBB. Dr. 
___ was
notified of the results and a copy of the ECG tracing were sent 
back in
the patient's folder.

MRI ___: Mildly dilated left and ventricular
cavity sizes with normal regional/global biventricular
systolic function. No late gadolinium enhancement c/
w absence of focal fibrosis/scar.
The CMR findings are NOT suggestive of cardiac
sarcoid or focal myocarditis.

 
Brief Hospital Course:
==============================
PATIENT SUMMARY FOR ADMISSION:
==============================
___ year old otherwise healthy man presented with a syncopal
episode and progressive symptoms of light headedness/presyncope, 
palpitations and fatigue. On Holter concern for intermittent 
bradycardia and intraventricular conduction delay vs bundle 
branch block. Presented to ___ due to accelerating 
symptoms occurring at rest. Subsequently transferred to ___ 
for urgent EP evaluation. s/p dual chamber pacemaker after 
finding of intermittent Mobitz II Second degree AV block on 
stress test. 

====================
ACUTE ISSUES:
====================
# Mobitz II Second degree AV block
Patient with syncopal episode and progressive symptoms of light 
headedness/presyncope, palpitations and fatigue. Accelerating 
symptoms occurred at rest prior to admission. Patient was 
subsequently transferred to ___ were Stress test revealed
progressively worsening, symptomatic Mobitz II heart block with
2:1 conduction, chronotropic incompetence, and intermittent left 
bundle branch block. Thus, a cardiac arrhythmia was considered 
as the most likely cause for his syncope/presyncopal episodes. 
He underwent cMRI that was negative for an infiltrative process. 
Lyme neg. He underwent placement of ___ PPM, without 
any acute complications. His symptoms improved and he was 
discharged.

====================
CHRONIC ISSUES:
====================
# Right ear tinnitus:
New over the last ___ months. The tinnitus is constant and not
associated with hearing loss. That said, his subjective 
dizziness
may be related, though a cardiac cause of presence/syncope was 
deemed more likely. Notably, his neurologic exam was 
unremarkable. His symptoms were persistent at discharge.

====================
TRANSITIONAL ISSUES:
====================
[ ] Monitor tinnitus and if syncopal symptoms persist consider 
neurologic/ENT workup 
[ ] Follow up in 1 week with device clinic 

- ___ appointments: Device clinic, EP, PCP 
- ___ weight: 75.4 kg - 166.23 lb 
- Discharge creatinine: 1.0

# CODE STATUS: Full (presumed)
# CONTACT: ___ (partner), ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
# Mobitz II second degree ___ block
# Intermittent left bundle branch block

Secondary diagnosis:
# Tinnitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you lost 
consciousness and felt dizzy while exercising

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had an image of your heart that revealed normal function 
and structure.
- You had a stress test that revealed a heart block (arrhythmia) 
that gave you symptoms during exercise.
- You had a permanent pacemaker placed to treat your heart 
block. Your symptoms improved and you were discharged home.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor, or the 
Heartline at ___ if you new concerning symptoms 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 75.4 kg - 166.23 lb. You should use 
this as your baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___